US08049016B2
Synthesis of 2-(1-((2,2-difluorocyclopropyl)methyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxamide
Following the procedure as describe in Example 16, making variations as required to replace 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 2-(1-((2,2-difluorocyclopropyl)methyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid to react with ammonium chloride, the title compound was obtained as a colourless solid in 62% yield: mp 273-275° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.74 (s, 1H), 7.60 (br, 2H), 4.02-3.79 (m, 2H), 2.52 (s, 3H), 2.20-2.05 (m, 1H), 1.72-1.60 (m, 1H), 1.48-1.37 (m, 1H); 13C NMR (75 MHz, DMSO-d6) δ 163.1, 151.7, 151.4, 150.0, 132.4, 123.5, 114.4 (t), 42.7 (d), 20.8, 17.3, 14.9; MS (ES+) m/z 316.0 (M+1).

reactant | 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1(C(C1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O)F | C12H13F2N3O3S
reactant | 2-(1-((2,2-difluorocyclopropyl)methyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid | FC1(C(C1)CN1N=CN(C1=O)C=1SC(=C(N1)C)C(=O)O)F | C11H10F2N4O3S
reactant | ammonium chloride | [Cl-].[NH4+]
product | 2-(1-((2,2-difluorocyclopropyl)methyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxamide | 62% yield | FC1(C(C1)CN1N=CN(C1=O)C=1SC(=C(N1)C)C(=O)N)F | C11H11F2N5O2S
